US05981533
4-Cyano-5-(dimethylamino-methyleneamino)-3-(4-ethoxy-phenylamino)-pyrazole
A suspension of 4.86 g (19.98 mmol) of 5-amino-4-cyano-3-(4-ethoxy-phenylamino)-pyrazole in 3.94 ml (23 mmol) of N,N-dimethylformamide diethyl acetal and 60 ml of toluene is heated under reflux for 2 hours. The reaction mixture is then cooled to 20° C. and filtered and the filter residue is washed with toluene, yielding the title compound; m.p. 246-247° C. (decomp.).

reactant | 5-amino-4-cyano-3-(4-ethoxy-phenylamino)-pyrazole | 19.98 mmol, 4.86 g | NC1=C(C(=NN1)NC1=CC=C(C=C1)OCC)C#N | C12H13N5O
reactant | N,N-dimethylformamide diethyl acetal | 23 mmol, 3.94 ml | C(C)OC(N(C)C)OCC | C7H17NO2
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Cyano-5-(dimethylamino-methyleneamino)-3-(4-ethoxy-phenylamino)-pyrazole | C(#N)C=1C(=NNC1N=CN(C)C)NC1=CC=C(C=C1)OCC | C15H18N6O
